US07728130B2
1-methyl-2-oxo-1,2-dihydroquinoline-3-carbonyl chloride, prepared from 1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid (Archiv der Pharmazie (1990), 323(2), 67-72) and oxalyl chloride, was added dropwise to a solution of tert-butyl 2-aminoacetate hydrochloride (0.041 g, 0.25 mmol), diisopropylethyl amine (0.086 ml, 0.49 mmol), in dichloromethane (1.00 ml), stirred at room temperature for 1 hr. The reaction mixture was diluted with dichloromethane, washed with water and dried over MgSO4 to afford tert-butyl 2-(1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate in a 27% yield.

reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbonyl chloride | CN1C(C(=CC2=CC=CC=C12)C(=O)Cl)=O | C11H8ClNO2
reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid | CN1C(C(=CC2=CC=CC=C12)C(=O)O)=O | C11H9NO3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl 2-aminoacetate hydrochloride | 0.25 mmol, 0.041 g | Cl.NCC(=O)OC(C)(C)C
reactant | diisopropylethyl amine | 0.49 mmol, 0.086 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 1.00 ml | ClCCl | CH2Cl2
product | tert-butyl 2-(1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 27% yield | CN1C(C(=CC2=CC=CC=C12)C(=O)NCC(=O)OC(C)(C)C)=O | C17H20N2O4
